US08039469B2
Step 2: Preparation of 4-[4-morpholin-4-yl-6-(8-oxa-3-azabicyclo[3.2.1]oct-3-yl)-1,3,5-triazin-2-yl]aniline
A mixture of 3-(4-chloro-6-morpholin-4-yl-1,3,5-triazin-2-yl)-8-oxa-3-azabicyclo[3.2.1]octane (2.0 g, 6.4 mmol), tetrakis(triphenylphosphine)palladium (0) in catalytic amount (100 mg), sodium carbonate solution 2 M (5 mL), 4-aminophenylboronic acid pinacol ester (1.5 g, 6.43 mmoles), DME (200 mL) was refluxed for 24 hours. The solvent was evaporated and the residue was dissolved in methylene chloride and filtered though Celite™. The organic layer was washed with water (200 mL) and dried over magnesium sulfate. It was filtered and the solvent was evaporated. The residue was chromatographed on silica gel column using Ethyl acetate/hexanes (1:1) as an eluent, to give 1.4 g, (59% yield) of the titled product. mp. 154; (M+H) 369.4.

reactant | 3-(4-chloro-6-morpholin-4-yl-1,3,5-triazin-2-yl)-8-oxa-3-azabicyclo[3.2.1]octane | 6.4 mmol, 2.0 g | ClC1=NC(=NC(=N1)N1CCOCC1)N1CC2CCC(C1)O2 | C13H18ClN5O2
reactant | sodium carbonate | 2 M, 5 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-aminophenylboronic acid pinacol ester | 6.43 mmoles, 1.5 g | NC1=CC=C(C=C1)B1OC(C)(C)C(C)(C)O1 | C12H18BNO2
catalyst | tetrakis(triphenylphosphine)palladium | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DME | 200 mL | COCCOC | C4H10O2
product | 4-[4-morpholin-4-yl-6-(8-oxa-3-azabicyclo[3.2.1]oct-3-yl)-1,3,5-triazin-2-yl]aniline | 59% yield | N1(CCOCC1)C1=NC(=NC(=N1)N1CC2CCC(C1)O2)C2=CC=C(N)C=C2 | C19H24N6O2
